US04707476
With stirring and excluding moisture, a suspension of 1.14 g (0.03 mole) of lithium aluminium hydride in 75 ml of abs. diethyl ether is introduced slowly in a nitrogen atmosphere to an ice-cooled solution of 4 g (0.03 mole) of aluminium chloride in 100 ml of abs. diethyl ether in such a manner that the reaction temperature does not exceed 5° C. Thereafter a suspension of 2.93 g (0.01 mole) of 1,3,4,5-tetrahydro-2H-dibenzo[2,3:6,7]thiepino[4,5-d]azepine-2-one in 50 ml of abs. diethyl ether is added and the mixture is refluxed for 24 hours. After cooling to 0°-5° C., excess aluminium hydride is decomposed cautiously by the dropwise addition of 10 ml of water. The organic phase is then separated, washed with two 30 ml portions of water, dried over sodium sulphate and concentrated, to give 2,3,4,5-tetrahydro-1H-dibenzo[2,3:6,7]thiepino[4,5-d]azepine as residue, which melts at 142°-143° C. after recrystallisation from methanol. Melting point of the methanesulphonate: 305°-307° C.

reactant | lithium aluminium hydride | 0.03 mole, 1.14 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminium chloride | 0.03 mole, 4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3,4,5-tetrahydro-2H-dibenzo[2,3:6,7]thiepino[4,5-d]azepine-2-one | 0.01 mole, 2.93 g | C1C(NCCC2=C1C1=C(SC3=C2C=CC=C3)C=CC=C1)=O | C18H15NOS
reactant | aluminium hydride | [H-].[Al+3].[H-].[H-]
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,3,4,5-tetrahydro-1H-dibenzo[2,3:6,7]thiepino[4,5-d]azepine | C1CNCCC2=C1C1=C(SC3=C2C=CC=C3)C=CC=C1 | C18H17NS
